US08729263B2
Step 1: 7-(Benzyloxy)-1-bromo-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-ol
To a mixture of 7-(benzyloxy)-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-ol (100 mg, 0.201 mmol) in DMF (1 mL) was added N-bromosuccinimide (39.4 mg, 0.221 mmol) at 0° C. The reaction mixture was stirred at RT for 1.5 h, then loaded onto a 2 g SCX column, washed with MeOH, and eluted with 2M NH3 in MeOH. The product-containing fractions were concentrated and the crude material was purified via silica gel flash column chromatography to give the desired product as a brown solid (33.6 mg, 29% yield). MS (M+1)=577.3.

reactant | 7-(benzyloxy)-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-ol | 0.201 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C=C2C=CC(=CC2=C1)O)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C31H36N4O2
reactant | N-bromosuccinimide | 0.221 mmol, 39.4 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 7-(Benzyloxy)-1-bromo-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-ol | 33.6 mg, 29% yield | C(C1=CC=CC=C1)OC1=C(C=C2C=CC(=C(C2=C1)Br)O)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C31H35BrN4O2
